US04249937
2-(1-ethoxyaminopropylidene)-5-[1-(p-tolylthio)isopropyl]cyclohexane-1,3-dione (Compound No. 75)
1.3 g of 2-propionyl-5-[1-(p-tolylthio)isopropyl]cyclohexane-1,3-dione was allowed to react with 0.3 g of allyloxyamine at room temperature for 15 hours in the mixture of 10 ml of benzene and 3 ml of ethanol. After completion of the reaction, the resulting reaction solution was treated as in Example 1 to obtain 1 g of the desired compound.

reactant | 2-propionyl-5-[1-(p-tolylthio)isopropyl]cyclohexane-1,3-dione | 1.3 g | C(CC)(=O)C1C(CC(CC1=O)C(C)(C)SC1=CC=C(C=C1)C)=O | C19H24O3S
reactant | allyloxyamine | 0.3 g | C(C=C)ON | C3H7NO
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-(1-ethoxyaminopropylidene)-5-[1-(p-tolylthio)isopropyl]cyclohexane-1,3-dione | 1 g | C(C)ONC(CC)=C1C(CC(CC1=O)C(C)(C)SC1=CC=C(C=C1)C)=O | C21H29NO3S
